US07381823B2
24 ml of a 5.4 M solution of sodium methylate in methanol, 17.7 g of dimethylmalonate and 100 ml of methanol are placed in a 250 ml flask equipped with a mechanical stirrer, thermometer and condenser, under nitrogen flow. After 30 minutes, when the sodium has completely dissolved, a suspension of 20 g cyclohexylidenecyanoacetamide in 50 ml of methanol is added over a period of 15 minutes. The reaction mixture is left under agitation for 1 hour at 25° C. and is subsequently acidified with 5% HCl. The solid obtained is filtered off, washed with methanol and dried under vacuum. 28 g of methyl 5-cyano-2,4-dioxo-3-azaspiro[5,5]undecane-1-carboxylate are obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | dimethylmalonate | 17.7 g | CC(C(=O)[O-])(C(=O)[O-])C
reactant | sodium | [Na] | Na
reactant | cyclohexylidenecyanoacetamide | 20 g | C1(CCCCC1)=C(C(=O)N)C#N | C9H12N2O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | methyl 5-cyano-2,4-dioxo-3-azaspiro[5,5]undecane-1-carboxylate | 28 g | C(#N)C1C(NC(C(C12CCCCC2)C(=O)OC)=O)=O | C13H16N2O4
